US06828460B2
cis/trans-[4-(2,4-Dihydroxyphenyl)cyclohexyl]acetonitrile
To a round bottomed flask equipped with magnetic stirrer was added {4-[2,4-bis(methoxymethoxy)phenyl]cyclohexylidene}acetonitrile (408 mg, 1.3 mmol) and methanol (20 ml). The resulting solution was heated to reflux temperature and aqueous hydrochloric acid (20 ml, 1.0M) was added. The solution was heated for 1 hr then cooled and saturated aqueous sodium bicarbonate solution (50 ml) added. The mixture was partitioned between ethyl acetate (100 ml) and water (20 ml) and the aqueous layer was extracted with ethyl acetate (2×20 ml). The combined organic layers were washed with brine (20 ml), dried over magnesium sulfate, filtered and concentrated in vacuo affording an oil. To a 50 ml round bottomed flask equipped with magnetic stirrer was added crude [4-(2,4-dihydroxyphenyl)cyclohexylidene]acetonitrile (ca. 224 mg, 0.98 mmol) and ethanol (15 ml). To the stirred solution was added palladium (catalytic amount, 10% on activated carbon) in one portion. The reaction vessel was evacuated and then placed under a hydrogen atmosphere. This process was repeated 10 times before leaving the reaction mixture under a hydrogen atmosphere. Vigorous stirring was continued for 17 hr, then the reaction mixture was filtered through celite washing with methanol. The solvent was removed under reduced pressure and the residue was purified via flash column chromatography (SiO2, ethyl acetate/petroleum ether, 1:1, v/v), furnishing the title compound (226 mg, 80% over 2 steps) as a colourless oil. m/z (ES+) 232 (M+H+); δH(CD3OD) 1.31 (1H, m), 1.52 (1H, m), 1.67 (1H, m), 1.77 (0.5H, m), 1.83 (1H, m), 1.92 (2H, m), 1.98 (2H, m), 2.22 (0.5H), 2.44 and 2.67 (2H, d), 2.84 (1H, m), 6.28 (2H, m), 6.96 (1H, m).

reactant | {4-[2,4-bis(methoxymethoxy)phenyl]cyclohexylidene}acetonitrile | 1.3 mmol, 408 mg | COCOC1=C(C=CC(=C1)OCOC)C1CCC(CC1)=CC#N | C18H23NO4
reactant | hydrochloric acid | 1.0M, 20 ml | Cl | ClH
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
reactant | [4-(2,4-dihydroxyphenyl)cyclohexylidene]acetonitrile | 0.98 mmol, ca. 224 mg | OC1=C(C=CC(=C1)O)C1CCC(CC1)=CC#N | C14H15NO2
catalyst | palladium | [Pd] | Pd
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | methanol | 20 ml | CO | CH4O
product | trans-[4-(2,4-Dihydroxyphenyl)cyclohexyl]acetonitrile | 226 mg, 80% | OC1=C(C=CC(=C1)O)[C@@H]1CC[C@H](CC1)CC#N | C14H17NO2
